US07348449B2
Synthesis of 4-{3-[5-(4-Benzyloxyphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]-3-hydroxyprop-1-ynyl}benzoic acid
In a manner similar to that of Example 16b, by reacting 0.28 g (0.71 mmol) of 1-[5-(4-benzyloxyphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]prop-2-yn-1-ol with 0.146 g (0.6 mmol) of 4-iodobenzoic acid, 0.010 g (0.015 mmol) of trans-dichlorobis(triphenylphosphine)palladium and 0.006 g (0.003 mmol) of copper iodide, a yellow solid is obtained (0.03 g; yield=10%; m.p.=171° C.).

reactant | 1-[5-(4-benzyloxyphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]prop-2-yn-1-ol | 0.71 mmol, 0.28 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)C(C#C)O | C28H26O2
reactant | 4-iodobenzoic acid | 0.6 mmol, 0.146 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.015 mmol, 0.010 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.003 mmol, 0.006 g | [Cu](I)I
product | 4-{3-[5-(4-Benzyloxyphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]-3-hydroxyprop-1-ynyl}benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)C(C#CC1=CC=C(C(=O)O)C=C1)O | C35H30O4
